US05760033
To a solution of 12.9 g of N-[1-(2-bromophenyl)-3-hydroxypropyl]-2,6-difluorobenzamide in 80 ml of benzene under refluxing, was added dropwise 5.0 g of thionyl chloride for 10 minutes and stirring continued for an additional 30 minutes. Aftercooling, the precipitated solid was filtered, washed several times with n-hexane and dried to afford 13.0 g of N-[1-(2-bromophenyl)-3-chloropropyl]-2,6-difluorobenzamide. m.p. 183°-185° C.

reactant | N-[1-(2-bromophenyl)-3-hydroxypropyl]-2,6-difluorobenzamide | 12.9 g | BrC1=C(C=CC=C1)C(CCO)NC(C1=C(C=CC=C1F)F)=O | C16H14BrF2NO2
reactant | thionyl chloride | 5.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-[1-(2-bromophenyl)-3-chloropropyl]-2,6-difluorobenzamide | 13.0 g | BrC1=C(C=CC=C1)C(CCCl)NC(C1=C(C=CC=C1F)F)=O | C16H13BrClF2NO
